US04539426
N-[2-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]ethyl]-N-(1-methylethyl)-3,4-dichlorobenzenesulfonamide
The title compound was prepared by reaction of N-β-chloroethyl-N-(1-methylethyl)-3,4-dichlorobenzenesulfonamide with N-methylhomoveratrylamine in xylene containing inorganic carbonate acid scavengers by heating for five days.

reactant | N-β-chloroethyl-N-(1-methylethyl)-3,4-dichlorobenzenesulfonamide | ClCCN(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C | C11H14Cl3NO2S
reactant | N-methylhomoveratrylamine | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]ethyl]-N-(1-methylethyl)-3,4-dichlorobenzenesulfonamide | COC=1C=C(C=CC1OC)CCN(CCN(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C)C | C22H30Cl2N2O4S
